US05254584
In a 1 liter 4-necked round-bottomed flask were placed 500 ml of methylene chloride and cooled down to -78° C. 41.3 g (0.33 mole) of oxalyl chloride were added slowly, followed by dropwise addition of 56.4 g (0.72 mole) of dry dimethylsulfoxide in 30 ml of methylene chloride, all the while keeping the temperature below -70° C. After the addition was completed the reaction mixture was stirred at -78° C. for 30 minutes and 60 g (0.36 mole) of the previously prepared 3-hydroxymethyl-5-methylbenzoic acid were added in 1 portion, followed by dropwise addition of 131.4 g (1.3 mole) of triethylamine, keeping the temperature below -65° C. during each of the additions. The reaction mixture was then warmed up slowly to room temperature, stirred for 90 minutes and then washed with 2% aqueous sodium hydroxide (3×500 ml). The combined basic layers were washed with hexane once and acidified with concentrated hydrochloric acid and then extracted with ethyl acetate (4×500 ml). The combined organic layers were washed with water (1×500 ml) and then with brine (1×300 ml) and dried over anhydrous magnesium sulfate. The solvent was then eliminated in a rotavap. The resulting oily product was triturated with hexane and filtered yielding 52 g (88%) 3-formyl-5-methylbenzoic acid as a tan solid.

reactant | oxalyl chloride | 0.33 mole, 41.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.72 mole, 56.4 g | CS(=O)C | C2H6OS
reactant | 3-hydroxymethyl-5-methylbenzoic acid | OCC=1C=C(C(=O)O)C=C(C1)C | C9H10O3
reactant | triethylamine | 1.3 mole, 131.4 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 3-formyl-5-methylbenzoic acid | 52 g, 88% | C(=O)C=1C=C(C(=O)O)C=C(C1)C | C9H8O3
